US03979405
2-[(p-chloro-phenoxy)-isopropyl]-4,4-dimethyl-2-oxazoline
19.57 g. (0.1 moles) of 2-(p-chloro-phenoxy)- 2-methyl-propionitrile are reacted under stirring for 34 hours with 17.83 g. (0.2 moles) of 2-amino-2-methyl-1-propanol in the presence of 0.66 g. (0.003 moles) of zinc acetate catalyst at a temperature of 140°-150°C. The reaction takes place under an intensive development of ammonia gas. When the development is finished, the mixture is cooled, dissolved in 300 ml. of chloroform and the solution washed with water to neutral reaction. After drying the solution over anhydrous magnesium sulphate it is evaporated to dryness. The green-yellow colored oil (26.5 g.), is subjected to fractional distillation in vacuo. The main fraction is a product of 23.6 g. (yield 88%), mp.: 98°-100°C/0.02 mmHg. The distilled product crystallizes after standing for 48 hours, Mp. 59°-61°C.

reactant | 2-(p-chloro-phenoxy)- 2-methyl-propionitrile | 0.1 moles | ClC1=CC=C(OC(C#N)(C)C)C=C1 | C10H10ClNO
reactant | 2-amino-2-methyl-1-propanol | 0.2 moles | NC(CO)(C)C | C4H11NO
reactant | ammonia | N | H3N
catalyst | zinc acetate | 0.003 moles | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | 2-[(p-chloro-phenoxy)-isopropyl]-4,4-dimethyl-2-oxazoline | yield 88% | ClC1=CC=C(OC(C)(C)C=2OCC(N2)(C)C)C=C1 | C14H18ClNO2
